US06417192B1
A solution of 1-bromo-7-(4-chlorophenylthio)heptane (0.80 g) in dichloromethane (10 ml) was cooled to −78° C. (cardice/acetone) and a slurry of metachloroperbenzoic acid (60%, 0.72 g) in dichloromethane (5 ml) was added over 20min. After 40 min, the reaction was allowed to warm to room temperature and shaken with aqueous sodium sulfite/sodium hydrogen carbonate solution. The organic layer was dried over magnesium sulfate and evaporated under reduced pressure. The residue was chromatographed on silica gel using dichloromethane to 4% methanol in dichloromethane as eluents to give 1-bromo-7-(4-chlorophenylsulfinyl)heptane (0.43 g). 1H-NMR (CDCl3) δ 1.2-2.0 (10H, m), 2.77 (2H, t), 3.39 (2H, t) and 7.4-7.7 (4H, m).

reactant | 1-bromo-7-(4-chlorophenylthio)heptane | 0.80 g | BrCCCCCCCSC1=CC=C(C=C1)Cl | C13H18BrClS
reactant | cardice acetone | C(=O)=O.CC(=O)C
reactant | metachloroperbenzoic acid | 0.72 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfite sodium hydrogen carbonate | S(=O)([O-])[O-].[Na+].[Na+].C(O)([O-])=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-bromo-7-(4-chlorophenylsulfinyl)heptane | 0.43 g | BrCCCCCCCS(=O)C1=CC=C(C=C1)Cl | C13H18BrClOS
